US05521170
A mixture of 5-{4-[2-(4-methylphenyl)benzoylamino]benzoyl}-1-(4-methyl-1-piperazinylcarbonyl)methyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (110 mg) and methyl iodide (76.1 mg) in dichloromethane (10 ml) was stirred at ambient temperature overnight and a precipitate was filtered to give 4-{5-{4-[2-(4-methylphenyl)benzoylamino]benzoyl}-2-oxo-1,3,4 ,5-tetrahydro-2H-1,5-benzodiazepin-1-yl) acetyl-1,1-dimethylpiperazinium iodide (118 mg).

reactant | 5-{4-[2-(4-methylphenyl)benzoylamino]benzoyl}-1-(4-methyl-1-piperazinylcarbonyl)methyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 110 mg | CC1=CC=C(C=C1)C1=C(C(=O)NC2=CC=C(C(=O)N3CCC(N(C4=C3C=CC=C4)CC(=O)N4CCN(CC4)C)=O)C=C2)C=CC=C1 | C37H37N5O4
reactant | methyl iodide | 76.1 mg | CI | CH3I
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-{5-{4-[2-(4-methylphenyl)benzoylamino]benzoyl}-2-oxo-1,3,4 ,5-tetrahydro-2H-1,5-benzodiazepin-1-yl) acetyl-1,1-dimethylpiperazinium iodide | 118 mg | [I-].CC1=CC=C(C=C1)C1=C(C(=O)NC2=CC=C(C(=O)N3CCC(N(C4=C3C=CC=C4)CC(=O)N4CC[N+](CC4)(C)C)=O)C=C2)C=CC=C1 | InChI=1S/C38H39N5O4.HI/c1-27-12-14-28(15-13-27)31-8-4-5-9-32(31)37(46)39-30-18-16-29(17-19-30)38(47)41-21-20-35(44)42(34-11-7-6-10-33(34)41)26-36(45)40-22-24-43(2,3)25-23-40;/h4-19H,20-26H2,1-3H3;1H
